* gnetlist -g spice-sdb mosfet_test.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============

*.include /home/antoine/spice_models/2N7000.mod
.model test nmos

RD 3 2 1  
IG 0 1 1
VDS 3 0 DC 1V
MQ1 (2 1 0 none) test

.print dc v(2)

.dc VDS 0 10 0.1 > data.out
.dc IG 0 4 0.1 > data.out

.end




